US09212168B2
Preparation 20: [(S)-2-Methyl-1-((2S,4S)-4-methylsulfanyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester
To a solution of ((S)-1-{(2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-methylsulfanyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (320 mg, 0.65 mmol, Preparation 19) and 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (246 mg, 0.97 mmol in 1,4-dioxane (5 mL) was added potassium acetate (114 mg, 1.16 mmol). The resulting mixture was sparged with nitrogen. 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane (47 mg, 0.058 mmol) was added, and reaction mixture was capped and heated at 100° C. overnight. The reaction mixture was cooled to RT and partitioned between EtOAc (50 mL) and water (10 mL). The organic layer was washed with water (5 mL) and brine (2 mL), dried over magnesium sulfate, filtered, and concentrated to give a dark-brown oil, which was purified by silica gel chromatography (24 g silica gel, 0-100% EtOAc/Hexanes). Fractions with desired product were combined and dried to give the title intermediate (120 mg, 34% yield) (m/z): [M+H]+ calcd for C27H39BN4O5S 543.27. found 543.

reactant | ((S)-1-{(2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-methylsulfanyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.65 mmol, 320 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)SC)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C21H27BrN4O3S
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.16 mmol, 114 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane | 0.058 mmol, 47 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [(S)-2-Methyl-1-((2S,4S)-4-methylsulfanyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 120 mg, 34% yield | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)SC)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H39BN4O5S
